Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
cillins / Sulfa (Sulfonamide Antibiotics) / mycins
 
Attending: ___.
 
Chief Complaint:
Endometrial cancer
 
Major Surgical or Invasive Procedure:
ROBOTIC ASSISTED TOTAL LAPAROSCOPIC HYSTERECTOMY, BILATERAL 
SALPINGO-OOPHORECTOMY, BILATERAL PELVIC AND PARA-AORTIC 
LYMPHADENECTOMY, OMENTAL BIOPSY, CYSTOSCOPY

 
History of Present Illness:
Ms. ___ is a lovely  ___ y/o G2P2
who presented to with complaints of postmenopausal bleeding for 
3
weeks in ___. A pap smear was done and a plan was made for
endometrial biopsy. Pap smear showed atypical glandular cells,
not otherwise specified, HPV negative.  She underwent a
colposcopy and EMB which was largely nondiagnostic but did show
some atypical cells.  A pelvic ultrasound showed an abnormal ___
thickened heterogeneous endometrium.  Uterus measured 6.1 cm x
2.8 cm x 3.6 cm, and there was a hypoechoic focal lesion
measuring 0.8 x 0.5 x 0.9 cm.  On ___ she went to
the operating room for a hysteroscopy with D&C with Dr. ___. 
Final pathology demonstrated high grade carcinoma, consistent
with high grade serous carcinoma, lesional cells stain positive
for p53 & p16, negative for ER.  CT Torso was completed on
___ at ___.  CT of the abdomen and pelvic did not
show any metastatic disease.  Chest CT results are pending.

The patient was referred to GYN oncology for further evaluation
and treatment recommendations.  She presents today with her
husband ___.  Since then she continues to have light 
spotting.
She otherwise feels well and denies any pain or discomfort. She 
denies any
early satiety, unintentional weight changes, nausea/vomiting,
SOB/CP, increased abdominal girth, abdominal or pelvic pain,
vaginal discharge, or change in her bowel or bladder habits.
 
Past Medical History:
HYPOTHYROIDISM, GERD, Melanoma

Surgical history: CHOLECYSTECTOMY, MELANOMA EXCISION, C-SECTION 
x2

OB-Gyn hx: G2P2, C-section x 2, menarche at 17, menopause at 43,
h/o HPV ___ years ago, last 3 pap smears reported WNL. HRT x ___ 
years
 
Social History:
___
Family History:
Bone Cancer
 
Physical Exam:
Pre-operative exam:
GENERAL:  No acute distress, well developed, well nourished
HEENT: NC/AT, sclera anicteric
SKIN:  Warm and dry.
NEUROLOGIC:  Alert and oriented x 4.
NECK: Supple no mass
LYMPHATICS:  No palpable supraclavicular, cervical, or
inguinofemoral lymphadenopathy.
LUNGS:  Clear to auscultation bilaterally.
HEART:  Regular rate and rhythm.
BACK: No spinal or cva tenderness.
ABDOMEN:  Soft, nontender, nondistended, normoactive bowel
sounds, without palpable masses or hepatosplenomegaly.
EXTREMITIES:  Nontender, no edema bilaterally.
PELVIC:  
-External female genitalia: normal
-Vagina: no lesions
-Cervix: no lesions, not expanded
-Uterus: not enlarged, nontender
-Adnexa: no palpable masses
RECTAL:  deferred

Day of discharge exam:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous
 
Pertinent Results:
Complete blood count:

___ 06:34AM BLOOD WBC-14.6* RBC-4.09 Hgb-11.7 Hct-36.5 
MCV-89 MCH-28.6 MCHC-32.1 RDW-13.5 RDWSD-44.3 Plt ___
___ 06:34AM BLOOD Neuts-81.4* Lymphs-10.4* Monos-7.1 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-11.84* AbsLymp-1.51 
AbsMono-1.04* AbsEos-0.06 AbsBaso-0.04

Chemistry:

___ 06:34AM BLOOD Glucose-101* UreaN-12 Creat-0.6 Na-137 
K-4.1 Cl-97 HCO3-27 AnGap-13
___ 06:34AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.8
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing a Robot-assisted total laparoscopic hysterectomy and 
bilateral salpingo-oophrectomy, bilateral pelvic sentinel lymph 
node biopsies, abdominopelvic lyphadenectomy, and staging 
biopsies. Please see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV dilaudid and 
toradol. Her diet was advanced without difficulty and she was 
transitioned to oxycodone, acetaminophen, and ibuprofen. On 
post-operative day #1, the vaginal packing placed in the OR was 
removed without incident. Her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
n/a
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
Do not exceed 2400mg in 24 hours. 
 RX *acetaminophen 500 mg 1 tablet(s) by mouth Every 6 hours as 
needed Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
___ take while using narcotics to prevent severe constipation. 
RX *docusate sodium 100 mg 1 tablet(s) by mouth Every 12 hours 
Disp #*28 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Take with food. 
 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*40 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN pain 
Do not operative heavy machinery or drive while taking.  
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 6 hours Disp 
#*25 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___